US08633312B2
8-Chloro-1-(tetrahydropyran-4-yloxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one (15)
For the synthesis of the title compound, 0.45 g (1.7 mmol) of 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one, 0.28 g (0.0027 mol) of tetrahydropyran-4-ol, 0.77 g (2.9 mmol) of P(Ph)3 and 0.41 g (2.0 mmol) of diisopropyl azodicarboxylate in 2 ml of THF are reacted by method P. C20H19ClO3 (Mr=342.83); yield: 45%

reactant | 8-chloro-1-hydroxy-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | 1.7 mmol, 0.45 g | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3O)C1 | C15H11ClO2
reactant | tetrahydropyran-4-ol | 0.0027 mol, 0.28 g | O1CCC(CC1)O | C5H10O2
reactant | P(Ph)3 | 2.9 mmol, 0.77 g | P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.0 mmol, 0.41 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 8-Chloro-1-(tetrahydropyran-4-yloxy)-10,11-dihydrodibenzo[a,d]cyclohepten-5-one | yield: 45% | ClC=1C=CC2=C(CCC3=C(C2=O)C=CC=C3OC3CCOCC3)C1 | C20H19ClO3
